US08580785B2
d) Preparation of 2-[5-Bromo-2-(3-chloro-pyridin-2-yl)-2H-pyrazol-3-yl]-6-trifluoromethyl-3-oxa-1,5-diaza-anthracen-4-one
Prepared from 6-Amino-2-trifluoromethyl-quinoline-7-carboxylic acid and 5-Bromo-2-(3-chloro-pyridin-2-yl)-2H-pyrazole-3-carboxylic acid analogously to the procedure described in step h) of example H-18. This gives the title compound as orange crystals.

reactant | 6-Amino-2-trifluoromethyl-quinoline-7-carboxylic acid | NC=1C=C2C=CC(=NC2=CC1C(=O)O)C(F)(F)F | C11H7F3N2O2
reactant | 5-Bromo-2-(3-chloro-pyridin-2-yl)-2H-pyrazole-3-carboxylic acid | BrC=1C=C(N(N1)C1=NC=CC=C1Cl)C(=O)O | C9H5BrClN3O2
product | 2-[5-Bromo-2-(3-chloro-pyridin-2-yl)-2H-pyrazol-3-yl]-6-trifluoromethyl-3-oxa-1,5-diaza-anthracen-4-one | BrC=1C=C(N(N1)C1=NC=CC=C1Cl)C1=NC2=CC3=CC=C(N=C3C=C2C(O1)=O)C(F)(F)F | C20H8BrClF3N5O2
